US06277877B1
(2SR), (3RS)-2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-hydroxy-3-phenyl-propionic acid methyl ester
From 5chloro-1H-indole-2-carboxylic acid and (+)-threo b-phenylserine methyl ester.

reactant | 5chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | b-phenylserine methyl ester | COC([C@@H](N)C(O)C1=CC=CC=C1)=O | C10H13NO3
product | (3RS)-2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-hydroxy-3-phenyl-propionic acid methyl ester | COC(C(C(C1=CC=CC=C1)O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C19H17ClN2O4
